US07655645B2
A mixture of 7-chloro-1-(tetrahydropyran-4-yl)methyl-1H-indole-3-carbothioic acid amide (920 mg, 3.0 mmol), 1,3-dichloroacetone (571 mg, 4.50 mmol) in toluene (30 ml) was stirred at 40° C. for 18 h. The reaction mixture was concentrated in vacuo, and the obtained crystals were washed with 10% dichloromethane (v/v) in n-heptane to give 7-chloro-3-[4-(chloromethyl)-[1,3]-thiazol-2-yl]-1-(tetrahydropyran-4-yl)methyl-1H-indole (590 mg, 1.5 mmol).

reactant | 7-chloro-1-(tetrahydropyran-4-yl)methyl-1H-indole-3-carbothioic acid amide | 3.0 mmol, 920 mg | ClC=1C=CC=C2C(=CN(C12)CC1CCOCC1)C(N)=S | C15H17ClN2OS
reactant | 1,3-dichloroacetone | 4.50 mmol, 571 mg | ClCC(=O)CCl | C3H4Cl2O
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 7-chloro-3-[4-(chloromethyl)-[1,3]-thiazol-2-yl]-1-(tetrahydropyran-4-yl)methyl-1H-indole | 1.5 mmol, 590 mg | ClC=1C=CC=C2C(=CN(C12)CC1CCOCC1)C=1SC=C(N1)CCl | C18H18Cl2N2OS
